US04283488
Preparation of 5,6-dichloro-1-ethyl-2-methyl-3-(3-trimethylsilylpropyl)benzimidazolium iodide
5,6-Dichloro-1-ethyl-2-methylbenzimidazole (22.9 g, 0.10 moles), 3-chloropropyltrimethylsilane (15.0 g, 0.10 moles), and sodium iodide (15.0 g, 0.10 moles) were suspended in acetonitrile (200 ml) and with stirring the mixture was refluxed for 17 hours. It was filtered while hot to remove NaCl and the filtrate treated with ether (300 ml). Solid which precipitated was filtered off, washed with ether and dried. Yield 11.3 g (24%) mp 213°-5°. Additional crops were obtained by concentrating the filtrates and adding more ether. The mp of each crop was lower and less exact than the previous crop but all crops contained at least some product.

reactant | 5,6-Dichloro-1-ethyl-2-methylbenzimidazole | 0.10 moles, 22.9 g | ClC1=CC2=C(N(C(=N2)C)CC)C=C1Cl | C10H10Cl2N2
reactant | 3-chloropropyltrimethylsilane | 0.10 moles, 15.0 g | ClCCC[Si](C)(C)C | C6H15ClSi
reactant | sodium iodide | 0.10 moles, 15.0 g | [I-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5,6-dichloro-1-ethyl-2-methyl-3-(3-trimethylsilylpropyl)benzimidazolium iodide | [I-].ClC1=CC2=C([N+](=C(N2CCC[Si](C)(C)C)C)CC)C=C1Cl | InChI=1S/C16H25Cl2N2Si.HI/c1-6-19-12(2)20(8-7-9-21(3,4)5)16-11-14(18)13(17)10-15(16)19;/h10-11H,6-9H2,1-5H3;1H/q+1;/p-1
